US05462694
Production of 2-(2-decylindan-5-yl)-5-(3-phenylpropyloxy)pyrimidine (Ex. Comp. No. (I-75))
0.443 g of 2-(2-decylindan-5-yl)pyrimidine-5-ol, 0.343 g of phenylpropyl p-toluenesulfonate and 0.1 g of potassium hydroxide were dissolved in 2 ml of ethanol, followed by heat-refluxing for 4 hours. After the reaction, the reaction mixture was poured into water and subjected to extraction with toluene. The resultant organic layer was washed with water and dried with anhydrous sodium sulfate, followed by distilling-off of the solvent and purification by silica gel column chromatography to obtain 0.313 g of an objective product (Yield: 53.2%).

reactant | 2-(2-decylindan-5-yl)pyrimidine-5-ol | 0.443 g | C(CCCCCCCCC)C1CC2=CC=C(C=C2C1)C1=NC=C(C=N1)O | C23H32N2O
reactant | phenylpropyl p-toluenesulfonate | 0.343 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC1=CC=CC=C1)C | C16H18O3S
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
reactant | water | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(2-decylindan-5-yl)-5-(3-phenylpropyloxy)pyrimidine | 0.313 g, Yield: 53.2% | C(CCCCCCCCC)C1CC2=CC=C(C=C2C1)C1=NC=C(C=N1)OCCCC1=CC=CC=C1 | C32H42N2O
